US08476457B2
To a solution of 4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid methyl ester (0.183 g, 0.684 mmol) in DMF (5 mL) was added iodobenzene (0.15 g, 0.753 mmol), CuI (0.028 g, 0.137 mmol), (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine (0.04 g, 0.274 mmol), and Cs2CO3 (0.15 g, 1.36 mmol). The reaction mixture was stirred at 110° C. overnight, then cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure. Purification of the residue by column chromatography gave 0.12 g (53%) of 445-Methyl-pyridin-2-yl)-1-phenyl-1H-indazole-6-carboxylic acid methyl ester.

reactant | 4-(5-methyl-pyridin-2-yl)-1H-indazole-6-carboxylic acid methyl ester | 0.684 mmol, 0.183 g | COC(=O)C1=CC(=C2C=NNC2=C1)C1=NC=C(C=C1)C | C15H13N3O2
reactant | iodobenzene | 0.753 mmol, 0.15 g | IC1=CC=CC=C1 | C6H5I
reactant | (1S,2S)—N,N′-dimethylcyclohexane-1,2-diamine | 0.274 mmol, 0.04 g | CN[C@@H]1[C@H](CCCC1)NC | C8H18N2
reactant | Cs2CO3 | 1.36 mmol, 0.15 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.137 mmol, 0.028 g | [Cu]I
product | 1-phenyl-1H-indazole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C=NN(C2=C1)C1=CC=CC=C1 | C15H12N2O2
